US06417212B1
To a 25 mL round-bottomed flask equipped for magnetic stirring and fitted with a reflux condenser was added 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester (0.410 mmoles, 200 mg) (see Ex. 2, part B), 2-thiophenyl boronic acid (0.451 mmoles), toluene (5 mL), ethanol (5 mL), and sodium carbonate (0.819 mmoles, 0.410 mL of a 2M solution). This mixture was vacuum degassed and nitrogen was added in at a positive pressure. Pd(PPh3)4 (catalytic, spatula tip) was added and the reaction was heated to reflux for 3 h. Distilled water was added to the mixture. Subsequently, this was extracted with ethyl acetate and washed with brine. The organic layer was collected, filtered over a thin pad of silica gel, and concentrated in-vacuo. The crude mixture was then purified by chromatography on silica gel affording 2-(4-{2-[2-(4-thiophen-2-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester.

reactant | 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester | 0.410 mmoles, 200 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | 2-thiophenyl boronic acid | 0.451 mmoles | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-{2-[2-(4-thiophen-2-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C=1SC=CC1)=O | C28H29NO5S
